US04263291
2-Methoxyimino-2-(5-methyl-1,3,4-thiadiazol-2-yl)acetic acid (syn isomer) (0.21 g.) and 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (0.41 g.) were reacted according to similar manners to those of Examples 12 and 15 to give 7-[2-methoxyimino-2-(5-methyl-1,3,4-thiadiazol-2-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.23 g.), mp 175° to 178° C. (dec.).

reactant | 2-Methoxyimino-2-(5-methyl-1,3,4-thiadiazol-2-yl)acetic acid | 0.21 g | CON=C(C(=O)O)C=1SC(=NN1)C | C6H7N3O3S
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.41 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
product | 7-[2-methoxyimino-2-(5-methyl-1,3,4-thiadiazol-2-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.23 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1SC(=NN1)C | C16H15N7O5S4
